US04456772
18.6 g (0.1 mol) of 4-chloro-3-nitrobenzaldehyde and 8.7 g (0.15 mol) of potassium fluoride in 100 ml of sulpholane are stirred for 1 hour at 180° C. The mixture is stirred with 300 ml of water and the aldehyde is extracted with methylene chloride. After the customary working-up , 17.1 g of 92% strength 4-fluoro-3-nitrobenzaldehyde are obtained.

reactant | 4-chloro-3-nitrobenzaldehyde | 0.1 mol, 18.6 g | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | potassium fluoride | 0.15 mol, 8.7 g | [F-].[K+]
reactant | water | 300 ml | O | H2O
solvent | sulpholane | 100 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 4-fluoro-3-nitrobenzaldehyde | Yield: 92.5% | FC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
